Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pedestrian struck by ___
 
Major Surgical or Invasive Procedure:
___:
1. Posterior pelvic ring fixation with right to left sacroiliac 
fully-threaded screw, 7.3 mm.

2. Open reduction, internal fixation and lateral plating with 
___ system of proximal tibia fracture, 9-hole plate.

___: right eye lateral canthotomy and cantholysis 

 
History of Present Illness:
___ female presents with the above fractures after being struck 
by a motor vehicle. Struck on the right side by a car  traveling 
at approximately 35 pmh. No reported LOC. Conscious at  arrival 
w/ GCS~11. She was intubated at arrival due to  deteriorating 
mental status, confusion, and need for stat  imaging.  
Had an obvious right lower leg deformity at arrival and a pale  
cool pulseless foot. Was reduced within 5 min of the patient's  
arrival in the ED with return of palpable pulses. She was also  
complaining of right hip pain prior to intubation. Otherwise HPI 
 was limited ___ acuity, critical illness, and agitation.  

 
Past Medical History:
PMH:  
 -Side branch IPMN  
 -Leukopenia (lifelong)  
 -HLD  
 -Varicose veins  
 -___ cyst  
 -R knee arthritis  
 -Spine arthritis  
 -Osteopenia  
 -R renal cyst  
 -Hard of hearing bilaterally since childhood, ? traumatic  
 
 PSH:  
 -C-section  
 -Benign breast biopsies  
 note: Son ___ wants to be part of ___ 
team/informed before not after events. cell ___. Per 
son call anytime day or night  

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Constitutional: acute distress
HEENT: significant swelling and erythema bilat eyes, unable
to open eyes. mild crepitance bilat. small ___ laceration
lateral to right eye with minimal bleeding.
No hemotympanum, no septal hematoma. No dental trauma, no
obvious dentures
Chest: Clear to auscultation anteriorly, patent upper airway
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, diffuse TTP
Pelvic: pelvic TTP
Rectal: 2+ radial pulses bilaterally, no signficant external
bleeding
Extr/Back: RLE with obvious deformity dopplerable pulse.
Moving upper extremities actively 2cm laceration to right
upper arm. No stepoffs along spine.
Skin: abrasions
Neuro: GCS Eyes (unable to assess) Speech disoriented (4)
motor, does not follow commands but reaches at noxious
stimuli (5)=10. Yelling but does not follow commands or
answer questions. Moves upper extremities equally, moves
LLE.
Psych: confused
 
Pertinent Results:
___ 06:48AM BLOOD WBC-8.3 RBC-3.06* Hgb-9.1* Hct-29.5* 
MCV-96 MCH-29.7 MCHC-30.8* RDW-16.5* RDWSD-53.2* Plt ___
___ 06:37AM BLOOD WBC-9.5 RBC-2.92* Hgb-8.7* Hct-27.9* 
MCV-96 MCH-29.8 MCHC-31.2* RDW-16.4* RDWSD-54.4* Plt ___
___ 02:48PM BLOOD WBC-10.9* RBC-3.02* Hgb-9.2* Hct-28.3* 
MCV-94 MCH-30.5 MCHC-32.5 RDW-16.1* RDWSD-52.8* Plt ___
___ 01:54AM BLOOD WBC-11.0* RBC-3.37*# Hgb-10.1*# 
Hct-31.6*# MCV-94 MCH-30.0 MCHC-32.0 RDW-15.9* RDWSD-51.4* Plt 
___
___ 01:56AM BLOOD WBC-9.0 RBC-2.65* Hgb-7.9* Hct-24.8* 
MCV-94 MCH-29.8 MCHC-31.9* RDW-15.4 RDWSD-50.0* Plt ___
___ 04:57AM BLOOD WBC-7.5 RBC-2.74* Hgb-8.1* Hct-25.5* 
MCV-93 MCH-29.6 MCHC-31.8* RDW-15.0 RDWSD-49.5* Plt ___
___ 08:05AM BLOOD WBC-6.6 RBC-2.60* Hgb-7.8* Hct-24.1* 
MCV-93 MCH-30.0 MCHC-32.4 RDW-15.0 RDWSD-49.4* Plt ___
___ 01:40AM BLOOD WBC-6.1 RBC-2.44* Hgb-7.3* Hct-22.6* 
MCV-93 MCH-29.9 MCHC-32.3 RDW-14.8 RDWSD-49.1* Plt ___
___ 02:40AM BLOOD WBC-7.6 RBC-2.86* Hgb-8.4* Hct-25.6* 
MCV-90 MCH-29.4 MCHC-32.8 RDW-14.7 RDWSD-47.0* Plt ___
___ 02:20AM BLOOD WBC-6.0 RBC-2.62* Hgb-7.9* Hct-23.6* 
MCV-90 MCH-30.2 MCHC-33.5 RDW-15.2 RDWSD-48.9* Plt ___
___ 02:41AM BLOOD WBC-5.0 RBC-2.48* Hgb-7.6* Hct-22.6* 
MCV-91 MCH-30.6 MCHC-33.6 RDW-15.7* RDWSD-51.5* Plt ___
___ 02:59AM BLOOD WBC-5.4 RBC-2.78* Hgb-8.3* Hct-24.9* 
MCV-90 MCH-29.9 MCHC-33.3 RDW-16.7* RDWSD-54.2* Plt Ct-83*
___ 01:29PM BLOOD WBC-5.6 RBC-2.38* Hgb-7.3* Hct-21.5* 
MCV-90 MCH-30.7 MCHC-34.0 RDW-15.7* RDWSD-51.2* Plt Ct-73*
___ 11:50PM BLOOD WBC-10.8* RBC-3.46* Hgb-10.7* Hct-32.1* 
MCV-93 MCH-30.9 MCHC-33.3 RDW-13.0 RDWSD-43.8 Plt ___
___ 07:00PM BLOOD WBC-7.8 RBC-4.00 Hgb-12.0 Hct-35.9 MCV-90 
MCH-30.0 MCHC-33.4 RDW-12.4 RDWSD-41.1 Plt ___
___ 02:41AM BLOOD ___ PTT-28.0 ___
___ 11:50PM BLOOD ___ PTT-25.5 ___
___ 06:48AM BLOOD Glucose-126* UreaN-21* Creat-0.5 Na-141 
K-4.5 Cl-105 HCO3-25 AnGap-16
___ 06:37AM BLOOD Glucose-167* UreaN-24* Creat-0.5 Na-143 
K-4.3 Cl-107 HCO3-25 AnGap-15
___ 02:48PM BLOOD K-4.5
___ 06:30AM BLOOD Glucose-111* UreaN-21* Creat-0.6 Na-141 
K-6.1* Cl-107 HCO3-21* AnGap-19
___ 01:54AM BLOOD Glucose-135* UreaN-20 Creat-0.5 Na-141 
K-3.7 Cl-103 HCO3-29 AnGap-13
___ 03:48PM BLOOD Glucose-107* UreaN-20 Creat-0.5 Na-142 
K-3.8 Cl-102 HCO3-29 AnGap-15
___ 01:56AM BLOOD Glucose-162* UreaN-18 Creat-0.6 Na-141 
K-3.6 Cl-102 HCO3-30 AnGap-13
___ 04:57AM BLOOD Glucose-138* UreaN-16 Creat-0.5 Na-140 
K-3.9 Cl-104 HCO3-28 AnGap-12
___ 09:30PM BLOOD Glucose-144* UreaN-16 Creat-0.5 Na-140 
K-3.2* Cl-102 HCO3-28 AnGap-13
___ 02:20AM BLOOD Glucose-165* UreaN-12 Creat-0.4 Na-140 
K-4.0 Cl-106 HCO3-28 AnGap-10
___ 10:22AM BLOOD Glucose-126* UreaN-12 Creat-0.5 Na-141 
K-4.1 Cl-108 HCO3-28 AnGap-9
___ 02:41AM BLOOD Glucose-128* UreaN-12 Creat-0.4 Na-144 
K-4.0 Cl-112* HCO3-29 AnGap-7*
___ 02:59AM BLOOD Glucose-140* UreaN-18 Creat-0.5 Na-142 
K-4.0 Cl-110* HCO3-27 AnGap-9
___ 01:45AM BLOOD Glucose-134* UreaN-18 Creat-0.6 Na-141 
K-3.7 Cl-112* HCO3-24 AnGap-9
___ 02:27AM BLOOD Glucose-119* UreaN-20 Creat-0.6 Na-141 
K-4.1 Cl-112* HCO3-24 AnGap-9
___ 11:50AM BLOOD Glucose-133* UreaN-20 Creat-0.6 Na-142 
K-3.9 Cl-111* HCO3-24 AnGap-11
___ 11:50PM BLOOD Glucose-185* UreaN-23* Creat-0.6 Na-140 
K-3.7 Cl-109* HCO3-22 AnGap-13
___ 06:48AM BLOOD Calcium-8.3* Phos-3.5 Mg-2.4
___ 06:37AM BLOOD Calcium-8.5 Phos-3.7 Mg-2.4
___ 06:30AM BLOOD Calcium-8.7 Phos-3.9 Mg-2.2
___ 01:54AM BLOOD Calcium-8.5 Phos-3.7 Mg-2.1
___ 03:48PM BLOOD Calcium-8.5 Phos-3.4 Mg-2.0
___ 01:56AM BLOOD Calcium-8.3* Phos-2.8 Mg-2.0
___ 04:57AM BLOOD Calcium-8.1* Phos-2.3* Mg-1.9
___ 01:40AM BLOOD Calcium-7.5* Phos-2.1* Mg-2.0
___ 01:46PM BLOOD Calcium-8.1* Phos-2.4* Mg-2.0
___ 02:40AM BLOOD Calcium-7.9* Phos-2.0* Mg-2.2
___ 09:30PM BLOOD Calcium-7.8* Phos-1.8* Mg-1.8
___ 02:20AM BLOOD Calcium-7.5* Phos-2.0* Mg-2.1
___ 10:22AM BLOOD Calcium-7.9* Phos-2.6* Mg-2.1
___ 02:41AM BLOOD Calcium-7.3* Phos-2.5* Mg-2.0
___ 02:59AM BLOOD Calcium-7.7* Phos-2.2* Mg-1.9
___ 01:45AM BLOOD Calcium-7.7* Phos-1.9* Mg-1.8
___ 02:27AM BLOOD Calcium-7.4* Phos-2.5* Mg-2.2
___ 10:22AM BLOOD TSH-0.02*
___ 10:22AM BLOOD T4-4.7
___ 07:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:55PM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln->12 pH-6.0 Leuks-LG

___ 12:20 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 
                            **FINAL REPORT ___
   C. difficile DNA amplification assay (Final ___: 
      Invalid for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 
      Please contact the laboratory if confirmation by further 
testing is
      desired. 

___ 1:55 pm URINE      Source: Catheter. 

RADIOLOGY:
CXR ___: substantial increase in the diffuse bilateral 
pulmonary opacifications, most likely representing worsening
pulmonary edema in a patient with moderate layering pleural
effusions and compressive atelectasis bilaterally.  However, in
the appropriate clinical setting it would be impossible to
exclude superimposed pneumonia, especially in the absence of a
lateral view. 

CT head ___: 1. Bilateral inferior frontal lobe and left
temporal lobe contusions with an increase in the hemorrhagic
components of the right frontal lobe. Small amount of 
extra-axial
hemorrhage overlying the bilateral frontal lobes, slightly
increased in size compared to prior. 3. Small amount of
subarachnoid hemorrhage overlying the left temporoparietal lobe,
new.  Small amount of subdural layering along the falx, also 
new.
4. Small low-density subdural collections are new. 5. Bilateral
periorbital hematomas, increased on the left.  Bilateral
subgaleal hematomas, which have both increased in size. 6.
Unchanged right intraorbital extracoronal hematoma with
displacement of the superior rectus and superior oblique 
muscles,
as well as retrobulbar fat  stranding and mild proptosis. 7.
Numerous calvarial fractures

CT cystogram ___: Suspected extraperitoneal bladder wall 
injury.
tib/fib xray ___: Comminuted fractures of proximal diaphysis
tibia, fibula.  Subtle fracture very distal fibula. 
humerus xray ___: No humeral fracture. Tiny degenerative
calcification or avulsion fracture proximal electron 
CT pelvis ___: Right sacral ale are fracture appears vertically
oriented and extends partially to the right SI joint.  There is
associated mild widening of the right SI joint suggesting
potential ligamentous injury.  Additionally, minimally displaced
fractures of the right superior and inferior pubic ramus 
noted without significant associated hematoma.  There is a
complex fracture of the left superior and inferior pubic ramus
with multiple fracture fragments.  Additionally, there is a 
large
posteriorly displaced fracture fragment from the left superior
ramus fracture with significant surrounding hematoma 
demonstrating no evidence of active extravasation.  No 
additional
fracture is seen. 

CT head ___: Small intracranial hemorrhage with minimal
bifrontal cortical contusion and tiny bilateral frontal subdural
hematomas.  No significant mass-effect. 2. Fracture lines
involving the orbital roof bilaterally with involvement of 
the right lamina papyracea, left lateral orbital wall, posterior
wall of the left frontal sinus, and left temporal bone.  Trace
pneumocephalus. 3. Right globe proptosis with retrobulbar
hematoma and notable extraconal component.  Small retrobulbar
hematoma on the left. 4. Large periorbital and preseptal 
hematoma
and right frontal subgaleal hematoma. 
Trauma xray ___: Left superior and inferior pubic ramus
fractures
CT Cspine ___: No acute fracture or traumatic malalignment. 
Multilevel degenerative changes as described above. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      GRAM NEGATIVE ROD #2.    ~1000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 12:20 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 
                            **FINAL REPORT ___
   C. difficile DNA amplification assay (Final ___: 
      Invalid for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 
      Please contact the laboratory if confirmation by further 
testing is
      desired.
 
Brief Hospital Course:
Ms. ___ is an ___ yo F admitted to the Emergency department 
in acute distress after being struck by a motor vehicle. She was 
intubated for increased confusion and deteriorating mental 
status. She sustained multiple injuries as described below. She 
was admitted to the intensive care unit.

CT head showed small bifrontal SDH and small R IPH. Neurosurgery 
recommended 7 days keppra and repeat head CT stable. Hourly 
neurochecks remained intact.

Patient sustained bilateral orbital roof fractures(R>L) 
associated with concern for R retrobulbar hematoma, s/p lateral 
canthotomy and superior and inferior cantholysis. Opthalmology 
was consulted. No further intervention done. Patient will need 
outpatient 

Orthopedic surgery evaluated her left lateral compression type 1 
unstable pelvic fracture with anterior to posterior completion 
fracture of the right sacral ala and right proximal tibia 
comminuted fracture. There were both repaired in the OR on 
___. Please see operative report for details. 

Plastic surgery evaluated the facial fractures and recommended 
non-operative management at this time. 

A foley catheter was placed for bladder wall injury seen on 
cystogram for 2 weeks total. After removal, patient voided 
without difficulty. Urine culture positive for e.coli but 
patient asymptomatic and therefor antibiotic treatment was not 
indicated. 

Remainder of hospital course summarized below:

Neuro: The patient was appropriately sedated while intubated. 
After extubation, patient confused, agitated. Multiple 
antipsycotics including Haldol and Seroquel were attempted. 
Geriatric medicine was consulted and patient was put on a 
regimen with clonidine and Remeron with good effect. Mental 
status greatly improved, alert, calm, pleasant and interactive 
but still some confusion worse at night. While in the ICU hourly 
neuro checks were stable. Once on floor, she continued to be 
stable for a neurologic perspective. Completed 7 days keppra for 
seizure prophylaxis. 
CV: Blood pressure were closely monitored with arterial line. 
Initially required blood pressure support with vasopressors as 
needed. She had an episode of rapid afib and given amioderone 
with chemical conversion. No episodes of afib after and 
amioderone was not continued. Metoprolol started for rate 
control and goal blood pressure <140. 
Pulmonary: The patient was initially intubated on sedation. On 
___ she was extubated, initially required BiPap and then high 
flow nasal canula. Oxygen was gradually weaned to room air. 
Chest xrays were routinely monitored and showed pulmonary edema. 
She was diuresed with Lasix and her oxygen requirements 
decreased. No evidence of pneumonia.  
GI/GU/FEN: On ___ she failed speech and swallow evaluation and 
therefor a nasogastric feeding tube was placed and tube feed 
titrated to goal without issues. Once mental status improved, 
speech and swallow re-consulted and patient cleared for modified 
consistency diet. Calories were monitored and PO intake 
adequate; nasogastric tube removed. Foley catheter removed 14 
days post placement for bladder injury; no issues voiding. 
Levothyroxine started in ICU and discontinued once clinical 
status improved. TSH .02, free T4 4.7. Patient's intake and 
output were closely monitored.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, her hematocrit initially tended down but then 
stabilized. She received 2 units of PRBCs in the emergency 
department
Prophylaxis: The patient received subcutaneous heparin starting 
on ___ with clearance from neurosurgery and ophthalmology. ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible. Physical therapy and 
occupational therapy were consulted and recommended discharge to 
rehab. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

Transitional Issues: 
Recommend repeat TSH in ___ weeks. 
Monitor BP/HR as patient was not on any cardiac medications 
prior to admission.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
do not exceed 4 grams/24 hours.   
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN to be given with 
Mucomyst  
3.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
4.  CloNIDine 0.1 mg PO TID  
5.  Docusate Sodium 100 mg PO BID  
6.  Heparin 5000 UNIT SC BID  
7.  Ipratropium-Albuterol Neb 1 NEB NEB Q4H:PRN SOB  
8.  Metoprolol Tartrate 25 mg PO BID  
9.  Ramelteon 8 mg PO QHS  
10.  Senna 8.6 mg PO BID:PRN constipation  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Comminuted right proximal tib/fib  
Bilateral inferior and superior pubic rami fractures, sacral  
bilateral orbital roof fractures
left temporal bone and sphenoid fracture
right retrobulbar hematoma
right side afferent pupillary defect 
small Right IPH
small bifrontal SDH
Bladder injury

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery Service on ___ 
after being struck by a motor vehicle. You sustained multiple 
injuries including traumatic brain injury, facial fractures, 
bilateral eye injuries, a pelvis fracture, a right leg fracture, 
and a bladder injury. 

You were seen and evaluated by the neurosurgery team who 
prescribed keppra to prevent seizures (7 day course). Your 
mental status was closely watched and gradually improved. 

You were evaluated by the plastic surgery team for your facial 
fractures. No surgical intervention was recommended at this 
time, please follow up in outpatient clinic at your scheduled 
appointment.

You were evaluated by orthopedic surgery for your pelvic and leg 
fractures. You were taken to the operating room and had your 
right leg and pelvis repaired surgically. 

You were evaluated by the ophthalmology team due to your eye 
injury. An incision was made near your eye to relieve the 
pressure. You should see your outpatient ophthalmologist for 
further evaluation and care. 

You had a foley catheter placed to allow your bladder to heal. 
The cathter was removed and you were able to void without 
issues. 

You worked with physical and occupational therapy who recommend 
that you are discharged to rehab to continue your recovery.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___